US07427632B2
4-{2-[(3-Chloro-1H-indole-6-carbonyl)amino]-2-(2-fluoro-phenyl)ethoxymethyl}piperidine-1-carboxylic acid tert-butyl ester
Using coupling method A, 4-[2-amino-2-(2-fluorophenyl)-ethoxymethyl]piperidine-1-carboxylic acid tert-butyl ester (600 mg, 1.7 mmol) and 3-chloroindole-6-carboxylic acid (367 mg, 1.9 mmol) afforded, after purification (SiO2: 10 DCM: 2 EtOAc: 2 Hexane: 0 to 0.125 isopropyl amine), 800 mg (90%) of the title compound.

reactant | 4-[2-amino-2-(2-fluorophenyl)-ethoxymethyl]piperidine-1-carboxylic acid tert-butyl ester | 1.7 mmol, 600 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COCC(C1=C(C=CC=C1)F)N | C19H29FN2O3
reactant | 3-chloroindole-6-carboxylic acid | 1.9 mmol, 367 mg | ClC1=CNC2=CC(=CC=C12)C(=O)O | C9H6ClNO2
product | 4-{2-[(3-Chloro-1H-indole-6-carbonyl)amino]-2-(2-fluoro-phenyl)ethoxymethyl}piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COCC(C1=C(C=CC=C1)F)NC(=O)C1=CC=C2C(=CNC2=C1)Cl | C28H33ClFN3O4
